US05574042
A mixture of 3-bromo-8-[2,6-dichloro-3-[N-(bromoacetylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (150 mg) and 30% solution of methylamine in methanol (2 ml) was stirred for 1 hour at ambient temperature. The mixture was concentrated in vacuo, and the residue was purified by silica gel column chromatography (methylene chloride:methanol=10:1, V/V) to give 3-bromo-8-[2,6-dichloro-3-[N-(sarcosylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (103 mg).

reactant | 3-bromo-8-[2,6-dichloro-3-[N-(bromoacetylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 150 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(CBr)=O)=O)Cl)C | C20H18Br2Cl2N4O3
reactant | methylamine | CN | CH5N
solvent | methanol | 2 ml | CO | CH4O
product | 3-bromo-8-[2,6-dichloro-3-[N-(sarcosylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 103 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(CNC)=O)=O)Cl)C | C21H22BrCl2N5O3
